US07687491B2
(14c) 1-({4-Ethyl-5-[5-(3-fluoro-4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylic acid
The title compound (0.11 g) was synthesized in a yield of 77% as a white crystalline solid by conducting the reaction similar to that mentioned in Example 3 (3e) using methyl 1-({4-ethyl-5-[5-(3-fluoro-4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate (0.15 g, 0.30 mmol) that was obtained in Example 14 (14b) and a 1 N aqueous solution of sodium hydroxide (0.9 mL, 0.9 mmol).

reactant | methyl 1-({4-ethyl-5-[5-(3-fluoro-4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate | 0.30 mmol, 0.15 g | C(C)C=1C=C(SC1C1=NOC(=N1)C1=CC(=C(C=C1)OC1=CC=CC=C1)F)CN1CC(C1)C(=O)OC | C26H24FN3O4S
reactant | sodium hydroxide | 0.9 mmol, 0.9 mL | [OH-].[Na+]
product | 1-({4-Ethyl-5-[5-(3-fluoro-4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylic acid | 0.11 g, yield of 77% | C(C)C=1C=C(SC1C1=NOC(=N1)C1=CC(=C(C=C1)OC1=CC=CC=C1)F)CN1CC(C1)C(=O)O | C25H22FN3O4S
